US06747046B2
5.3 g of cyclopentanone thiosemicarbazone is carefully added at 0° C. to a solution of lithium diisopropylamine in 200 ml of tetrahydrofuran (from 29 ml of diisopropylamine and 81 ml of 1.6 M n-butyllithium), whereby the temperature rises to 30° C. Then, it is stirred for 2 hours at room temperature. Then, 150 ml of 4N hydrochloric acid is carefully added in drops (exothermic, H2S development), and the mixture is refluxed for 30 minutes. Then, it is cooled to 5° C. and set at pH 14 with sodium hydroxide solution. The aqueous phase is extracted three times with tetrahydrofuran/ethyl acetate 95:5. The crude product is purified by column chromatography on silica gel with 1 l of ethyl acetate and 1 l of ethyl acetate/methanol 9:1 with the addition of 3% triethylamine. 2.58 g of 1,4,5,6-tetrahydro-cyclopentapyrazol-3-yl-amine with a melting point of 116-120° C. is obtained.

reactant | cyclopentanone thiosemicarbazone | 5.3 g | C1(CCCC1)=NNC(=S)N | C6H11N3S
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | hydrochloric acid | 4N, 150 ml | Cl | ClH
reactant | H2S | S | H2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 1.6 M, 200 ml | O1CCCC1 | C4H8O
product | 1,4,5,6-tetrahydro-cyclopentapyrazol-3-yl-amine | 2.58 g | N1N=C(C2=C1CCC2)N | C6H9N3
